US04551460
A solution of 45.1 g of benzyl (1H-imidazol-1-yl)hexanoate in 200 ml of isopropanol was hydrogenated over 10% palladium on carbon. Filtration and evaporation of the solvent gave 24.9 g (80%) of (1H-imidazol-1-yl)hexanoic acid, mp 135°-137° C.

reactant | benzyl (1H-imidazol-1-yl)hexanoate | 45.1 g | N1(C=NC=C1)C(C(=O)OCC1=CC=CC=C1)CCCC | C16H20N2O2
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
catalyst | palladium on carbon | [Pd] | Pd
product | (1H-imidazol-1-yl)hexanoic acid | 24.9 g, 80% | N1(C=NC=C1)C(C(=O)O)CCCC | C9H14N2O2
